US06995171B2
A. (2R)-(7-Chloro-thieno[3,2-b]pyridin-2-yl)-(2-methoxymethyl-pyrrolidin-1-yl)-methanone
The title compound was prepared from lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate and 2-methoxymethyl-pyrrolidine by a procedure analogous to Example 1C. MS: 312/314 (MH+); HPLC Rf: 4.87 min; HPLC purity: 99%.

reactant | lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate | ClC1=C2C(=NC=C1)C=C(S2)C(=O)[O-].[Li+]
reactant | 2-methoxymethyl-pyrrolidine | COCC1NCCC1 | C6H13NO
product | (2R)-(7-Chloro-thieno[3,2-b]pyridin-2-yl)-(2-methoxymethyl-pyrrolidin-1-yl)-methanone | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N2[C@H](CCC2)COC | C14H15ClN2O2S
